US04431653
A mixture of 4-[3-(2-methyl-1H-imidazol-1-yl)propyl]-1-piperidinecarboxaldehyde (3.8 g, 0.016 M) in dioxane (100 ml) and 2 N HCl (25 ml) was heated and refluxed for 51/2 hrs. After this period, solvent was removed, and 1 N NaOH (50 ml) was added to the residue. This mixture was then extracted with methylene chloride (5×50 ml). The combined extracts, dried over sodium sulfate, were stripped to dryness to yield 4-[3-(2-methyl-1H-imidazol-1-yl)propyl]piperidine (2.3 g, 65% yield).

reactant | 4-[3-(2-methyl-1H-imidazol-1-yl)propyl]-1-piperidinecarboxaldehyde | 0.016 M, 3.8 g | CC=1N(C=CN1)CCCC1CCN(CC1)C=O | C13H21N3O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | HCl | 2 N, 25 ml | Cl | ClH
product | 4-[3-(2-methyl-1H-imidazol-1-yl)propyl]piperidine | 2.3 g, 65% yield | CC=1N(C=CN1)CCCC1CCNCC1 | C12H21N3
